US05189205
1,4-Cyclohexyl di-isocyanate:
Carbon dioxide was added subsurface to a dichloromethane (50 mL) solution containing 1,4-diaminocyclohexane (1,4-(NH2)2C6H10) (mixture of cis and trans, 0.04 mol, 4.6 g), N-cyclohexyl-N',N',N",N"-tetraethylguanidine (0.08 mol, 20.4 g) and triethylamine (0.08 mol, 8.0 g) at -10° C. (ice and salt bath) for 1 h at a pressure of 0 psig. The reaction mixture was transferred rapidly via cannula under carbon dioxide to the precooled solution of phosphorus oxychloride (0.08 mol, 12.4 g) in 50 mL dichloromethane. After stirring for ca. 30 min at -10° C. the reaction mixture turned yellow-brown and a ppt formed. The crude reaction was filtered and the filtrate concentrated in vacuo. The residue was extracted with 2×100 mL diethyl ether. The ether layers (light yellow) were concentrated and the residue was distilled under vacuum (ca. 0.1-0.3 torr) collecting product, cis and trans 1,4-cyclohexyl di-isocyanate, at 68°-78 ° C. (3.9 g, 57%) of 96% purity as judged by GC. IR (neat) 2266 cm-1. 1H NMR was also obtained.

reactant | Carbon dioxide | C(=O)=O | CO2
reactant | 1,4-diaminocyclohexane | 0.04 mol, 4.6 g | NC1CCC(CC1)N | C6H14N2
reactant | triethylamine | 0.08 mol, 8.0 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.08 mol, 12.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1,4-Cyclohexyl di-isocyanate | C1CC(CCC1N=C=O)N=C=O | C8H10N2O2
